US07429665B2
3-Chloro-N-methoxy-N-methyl4-(quinolin-2-ylmethoxy)-benzamide
Following the procedure for the preparation of N-Methoxy-N-methyl-4-(2-quinolin-2-yl-ethyl)-benzamide but substituting 3-Chloro4-(quinolin-2-ylmethoxy)-benzoic acid provided the title compound. (M+H m/z=356.9).

reactant | N-Methoxy-N-methyl-4-(2-quinolin-2-yl-ethyl)-benzamide | CON(C(C1=CC=C(C=C1)CCC1=NC2=CC=CC=C2C=C1)=O)C | C20H20N2O2
reactant | 3-Chloro4-(quinolin-2-ylmethoxy)-benzoic acid | ClC=1C=C(C(=O)O)C=CC1OCC1=NC2=CC=CC=C2C=C1 | C17H12ClNO3
product | 3-Chloro-N-methoxy-N-methyl4-(quinolin-2-ylmethoxy)-benzamide | ClC=1C=C(C(=O)N(C)OC)C=CC1OCC1=NC2=CC=CC=C2C=C1 | C19H17ClN2O3
